US05128356
2-Butyl-7-methoxymethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole sodium salt
A mixture of 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]-7-methoxymethylbenzimidazole (0.6 g) and trimethyltin azide (1.2 g) in toluene (12 ml) was heated for 3 days under reflux in toluene (12 ml). The solvent was distilled off. To the residue was added 1N-HCl (8 ml) and the mixture was stirred for a while, followed by extraction with ethyl acetate. The organic layer was washed with water and dried, then the solvent was distilled off. The residue was purified by column chromatography on silica gel to give an oil. The product was dissolved in ethyl acetate, to which was added a methanol solution of sodium salt of 2-ethyl hexanoic acid (0.25 g). The mixture was concentrated. Crystals separated out were recrystallized from toluene-ethyl acetate to afford colorless crystals (0.22 g, 31%), m.p.175°-178° C.

reactant | 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]-7-methoxymethylbenzimidazole | 0.6 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)COC | C27H27N3O
reactant | trimethyltin azide | 1.2 g | C[Sn](C)(C)N=[N+]=[N-]
reactant | sodium | [Na] | Na
reactant | 2-ethyl hexanoic acid | 0.25 g | C(C)C(C(=O)O)CCCC | C8H16O2
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 2-Butyl-7-methoxymethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole sodium salt | 0.22 g, 31% | [Na].C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)COC | InChI=1S/C27H28N6O.Na/c1-3-4-12-25-28-24-11-7-8-21(18-34-2)26(24)33(25)17-19-13-15-20(16-14-19)22-9-5-6-10-23(22)27-29-31-32-30-27;/h5-11,13-16H,3-4,12,17-18H2,1-2H3,(H,29,30,31,32);
